US04710573
(a) 1-Acetyl-4-(2,4-dichlorobenzoyl)piperidine phenylhydrazone
A stirred mixture of 1-acetyl-4-(2,4-dichlorobenzoyl)piperidine (33.0 g., 0.11 mol.), phenylhydrazine hydrochloride (34.2 g) and anhydrous sodium acetate in isopropanol was refluxed for 2 hours. The reaction was stirred overnight (about 16 hours) at ambient temperature. The reaction was filtered and the filter cake was washed with ether and then dispersed into water. The water insoluble solid was collected and dried to yield 21.3 g of the product, mp 209°-211° C. Concentration of the filtrate afforded an oil which on standing one week partially solidified. The resultant mixture was triturated with CH3CN and an additional 7.5 g of the product 1-acetyl-4-(2,4-dichlorobenzoyl)piperidine phenylhydrazone was obtained.

reactant | 1-acetyl-4-(2,4-dichlorobenzoyl)piperidine | 0.11 mol, 33.0 g | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)Cl)Cl)=O | C14H15Cl2NO2
reactant | phenylhydrazine hydrochloride | 34.2 g | Cl.C1(=CC=CC=C1)NN
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-Acetyl-4-(2,4-dichlorobenzoyl)piperidine phenylhydrazone | 21.3 g | C1(=CC=CC=C1)NN=C(C1=C(C=C(C=C1)Cl)Cl)C1CCN(CC1)C(C)=O | C20H21Cl2N3O
